Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ yoM, no significant PMHx, noted onset of general malaise 2 
weeks ago with productive cough. Denies f/c, sore thrat at that 
time. Took off work on the ___ due to malaise. Sought care at 
___ on ___ due to worsening dyspnea, wheezing and couging. 
Started amoxicillin 500mg TID for projected 10day course, but 
felt that symptoms were worsenign after 4 days, with worsening 
cough, dyspnea, congestion and malaise. Was also taking codeine 
cough syrup, without improvement, and ___ fact feeling worse, 
particularly when trying to lie flat. Resought care at ___ on 
day of presentation due to worsening, found to have fever to 
101.6. Received flu vaccine this year; has never received 
pneumococcal  
 ___ the ED, initial vital signs were: 98.9 106 139/71 24 91% RA  

 - Exam was notable for: mildly somnolent, significant dyspnea 
when trying to speak, diffuse rhonchi primarily ___ bases  
 - Labs were notable for: leukocytosis (16.7); lytes WNL. 
Lactate 1.6. ABG 7.49/33/65 on RA. U/A w trace prot, no ketones  

 - Imaging: CXR with RLL.  
 - The patient was given: APAP 1gm, 1000 ml NS x 2, Duoneb, 
Ceftriaxone 1gm, Azithromycin 500mg IV  
 - Consults: none  
 Vitals prior to transfer were: 98.5 78 124/73 18 96% on 2.5LNC  

 On arrival, patient states that he feels better, though with 
ongoing cough that is most distressing to him. Still feels 
thirsty. Endorses "head pain" with prolonged cough, denies 
headache or head pain ___ absence of cough. No chest pain, 
substrenal or pleuritic. Endorses cough productive of yellow 
sputum. Congestion feeling ___ chest. No sick contacts. ___ 
of watery diarrhea over the weekend, now improving. No abd pain, 
N/V, rash, hematochezia or melena. Endoreses good liquid intake, 
but poor solid intake. No relief ___ dyspnea with Duoneb 
treatment ___ ED. Endorses conjunctivitis x 1 day, clear 
discharge, no pain with extraocular movement.  
 
Past Medical History:
osteoarthritis
 
Social History:
___
Family History:
denies h/o HTN, HLD, asthma, COPD, heart disease 
 
Physical Exam:
ADMISSION EXAM
==============
VITALS - 98.9 149/72 93 20 96%RA  
 GENERAL - pleasant, well-appearing, ___ no apparent distress. 
Speaking full sentences without labor on nasal cannula. Nasally 
voice c/w congestion  
 HEENT - normocephalic, atraumatic, marked diffuse conjunctival 
injection, no purulent discharge noted. PERRLA, EOMI. Unable to 
visualize posterior pharynx. Dentition with many filled 
cavities. Tacky mucous membranes  
 NECK - supple, no LAD, no thyromegaly, JVP flat  
 CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
 PULMONARY - bronchial breath sounds appreciated at RLL, 
egophony appreciate at low-mid RLL lung field. Sparse expiratory 
wheezing heard b/l.  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred  
 PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

DISCHARGE EXAM
==============
Vital Signs: 98.9 ___ 136/76 ___ 94-97% RA   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, JVP not elevated. 
Lungs: rhonchi diffusely, R>L. No wheezing or crackles
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro: CN II-XII grossly intact, moving all extremities 
spontaneously, A&Ox3
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:32PM   GLUCOSE-154* UREA N-13 CREAT-1.0 SODIUM-134 
POTASSIUM-4.3 CHLORIDE-96 TOTAL CO2-24 ANION GAP-18
___ 03:32PM   WBC-16.7*# RBC-5.00# HGB-14.7# HCT-43.8# 
MCV-88 MCH-29.4 MCHC-33.6 RDW-13.5 RDWSD-43.1
___ 03:32PM   NEUTS-78.3* LYMPHS-13.6* MONOS-5.9 EOS-0.1* 
BASOS-0.6 IM ___ AbsNeut-13.04* AbsLymp-2.27 AbsMono-0.98* 
AbsEos-0.01* AbsBaso-0.10*
___ 03:30PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:40PM   LACTATE-1.6
___ 04:03PM   freeCa-1.11*
___ 04:03PM   O2 SAT-92
___ 04:03PM   TYPE-ART O2-21 PO2-65* PCO2-33* PH-7.49* 
TOTAL CO2-26 BASE XS-2 INTUBATED-NOT INTUBA
___ 06:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 06:35PM URINE  RBC-0 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___

DISCHARGE LABS
==============
___ 07:16AM BLOOD WBC-11.2* RBC-4.75 Hgb-13.7 Hct-42.5 
MCV-90 MCH-28.8 MCHC-32.2 RDW-13.7 RDWSD-44.9 Plt ___
___ 07:16AM BLOOD Glucose-144* UreaN-15 Creat-0.9 Na-135 
K-4.5 Cl-98 HCO3-25 AnGap-17
___ 07:16AM BLOOD Calcium-9.2 Phos-4.7* Mg-2.2

IMAGING
=======
CXR ___
RLL pneumonia

MICROBIOLOGY
=============
___ respiratory culture and gram stain - CONTAMINATED

___ respiratory culture and gram stain - 
GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

___ C. diff stool assay
NEGATIVE
 
Brief Hospital Course:
BRIEF SUMMARY
=============
Mr. ___ is a ___ year old man with no significant past medical 
history who presented to the ED with worsening respiratory 
symptoms ___ the setting of treatment with amoxicillin. He was 
found to be hypoxemic, febrile, and tachypnic, with a CXR 
revealing a right lower lobe pneumonia. He was initially treated 
with ceftriaxone and azithromycin, but this was transitioned to 
levofloxacin and the patient improved. He did experience a few 
loose bowel movements and was tested for C. diff, however this 
returned as negative. He was discharged to complete a 7 day 
course of levofloxacin and follow up with his primary care 
physician.

ACUTE ISSUES
# COMMUNITY ACQUIRED PNEUMONIA: Patient presented with worsening 
dyspnea, cough, fever, malaise after 72 hour treatment for CAP 
as outpatient, also found to have new oxygen requirement. On 
exam, the patient was noted to be tachypnic. No significant 
co-morbidities. Was placed on ceftriaxone and azithromycin by 
nightfloat physician but this was switched to PO levaquin the 
following morning. Sputum gram stain showed GPCs ___ chains but 
culture grew commensal respiratory flora. His cough was treated 
with guaifenesin w/ codeine syrup, tessalon perles, and 
albuterol/ipratropium nebs. He improved significantly and was 
able to be weaned from oxygen. He was discharged to complete a 7 
day course of levofloxacin 750 mg daily

 # Diarrhea: The patient reported several loose, watery bowel 
movements during his course, likely from his antibiotic regimen. 
A C. diff assay was performed which was negative. He was given 
IVF for hydration.

 CHRONIC ISSUES  
 # OSTEOARTHRITIS  
 -- continued naproxen BID as needed for OA 
 
 # HEALTH MAINTENANCE  
 -- likely should be on daily aspirin given age 
 

TRANSITIONAL ISSUES
===================
-The patient will need to complete a 7 day course of 
levofloxacin
-Consider daily aspirin 81 mg given patient's age
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO Q12H:PRN pain 

 
Discharge Medications:
1. Naproxen 500 mg PO Q12H:PRN pain 
2. Benzonatate 200 mg PO TID 
RX *benzonatate 200 mg 1 capsule(s) by mouth three times a day 
Disp #*15 Capsule Refills:*0
3. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0
4. Guaifenesin-CODEINE Phosphate ___ mL PO HS:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL ___ ml by mouth at 
bedtime Disp ___ Milliliter Refills:*0
5. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL ___ ml by 
mouth q 6 h Refills:*0
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB/wheeze 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ puffs by mouth q 
___ h prn SOB/wheeze Disp #*1 Inhaler Refills:*0
7. Space Chamber Plus (inhalational spacing device) 1 spacer 
miscellaneous as directed 
RX *inhalational spacing device [Microchamber]  use as directed 
daily with inahler Disp #*1 Each Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
community acquired pneumonia
Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after being found to have a 
pneumonia. You were treated with antibiotics and medicines to 
help your cough and to help you breathe better. You had a 
significant improvement ___ your symptoms and were discharged to 
follow up with your primary care doctor as an outpatient. You 
were given a prescription for an antibiotic called Levaquin 
(levofloxacin). Please take all of this medication.

We wish you the best,
Your ___ Care Team 
 
Followup Instructions:
___